US07015218B1
1-(2-Chlorophenyl)-N-[3-cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(2-chlorophenyl)-5-methylpyrazole-4-carboxylic acid (1.0 g) and 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile (1.2 g), the title compound (0.79 g) was obtained, melting point: 218° C.

reactant | 1-(2-chlorophenyl)-5-methylpyrazole-4-carboxylic acid | 1.0 g | ClC1=C(C=CC=C1)N1N=CC(=C1C)C(=O)O | C11H9ClN2O2
reactant | 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile | 1.2 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
product | 1-(2-Chlorophenyl)-N-[3-cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide | 0.79 g | ClC1=C(C=CC=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCOCC1)C#N | C27H29ClN6O2
